US06943159B1
2-Amino-3-bromo-5-sulfamoylbenzenesulfonamide:
A stirred solution of 2-amino-5-sulfamoylbenzenesulfonamide (3.77 g; 15 mmol) in AcOH (50 ml) was added a solution of Br2 (0.78 ml; 15 mmol) in AcOH (10 ml). The reaction mixture was heated to 70° C. for 6 days, evaporated to dryness, resuspended in MeOH (85 ml) and added solid KOH (3.8 g; 68 mmol). The reaction mixture was heated to 60° C. for 2.5 h (hydrolysis of 3-methyl-, 3-bromomethyl-, 3-dibromomethyl and 3-tribromomethyl-1,2-dihydro-1,2,4-benzothiadiazine isomers formed in situ), filtered, neutralized and evaporated to dryness. Column chromatography gave 3.1 g (63%) product.

reactant | 2-amino-5-sulfamoylbenzenesulfonamide | 15 mmol, 3.77 g | NC1=C(C=C(C=C1)S(N)(=O)=O)S(=O)(=O)N | C6H9N3O4S2
reactant | Br2 | 15 mmol, 0.78 ml | BrBr | Br2
reactant | KOH | 68 mmol, 3.8 g | [OH-].[K+]
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | 2-Amino-3-bromo-5-sulfamoylbenzenesulfonamide | 3.1 g, 63% | NC1=C(C=C(C=C1Br)S(N)(=O)=O)S(=O)(=O)N | C6H8BrN3O4S2
